US09290485B2
b) (1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methanol
A mixture of (1,2,3,4-tetrahydroquinolin-7-yl)methanol (370 mg, 1.496 mmol), 1-bromo-2-methoxyethane (0.141 ml, 1.496 mmol) and Cs2CO3 (731 mg, 2.244 mmol) in DMF (10 ml). was stirred for 16 hr at 80° C. Additional 1-bromo-2-methoxyethane (0.070 ml, 0.748 mmol) was added and stirring was continued for 16 hr at 80° C. A third batch of 1-bromo-2-methoxyethane (0.070 ml, 0.748 mmol) was added and stirring was continued for 1 additional hour at 80° C. The reaction mixture was cooled to room temperature and water was added. The mixture was extracted with AcOEt. The organic layer was dried over MgSO4 and concentrated under reduced pressure to give the title compound. HPLC (Method A) Rt=1.173 min; MS (Method A) [M+H]+=221.9

reactant | (1,2,3,4-tetrahydroquinolin-7-yl)methanol | 1.496 mmol, 370 mg | N1CCCC2=CC=C(C=C12)CO | C10H13NO
reactant | 1-bromo-2-methoxyethane | 1.496 mmol, 0.141 ml | BrCCOC | C3H7BrO
reactant | Cs2CO3 | 2.244 mmol, 731 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-bromo-2-methoxyethane | 0.748 mmol, 0.070 ml | BrCCOC | C3H7BrO
reactant | 1-bromo-2-methoxyethane | 0.748 mmol, 0.070 ml | BrCCOC | C3H7BrO
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (1-(2-Methoxyethyl)-1,2,3,4-tetrahydroquinolin-7-yl)methanol | COCCN1CCCC2=CC=C(C=C12)CO | C13H19NO2
